US07858796B2
(69) 3-[1-({3-[(2R,5R)-2,5-dimethyl-1-pyrrolidinyl]propyl}sulfonyl)-4-piperidinyl]-5-phenyl-1H-indole-7-carboxamide
Following the general procedure for aminosulfonamide formation outlined in example 2, 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide (100 mg, 0.313 mmol) and (2R,5R)-2,5-dimethylpyrrolidine (449 mg, 1.56 mmol) were allowed to react in the presence of K2CO3 (886 mg, 0.63 mmol) and NaI (251 mg, 1.56 mmol). The resulting residue was purified by reverse phase HPLC eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) to give the title compound (60 mg, 37%).

reactant | aminosulfonamide | NS(=O)(=O)N | H4N2O2S
reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 0.313 mmol, 100 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C23H26ClN3O3S
reactant | (2R,5R)-2,5-dimethylpyrrolidine | 1.56 mmol, 449 mg | C[C@H]1N[C@@H](CC1)C | C6H13N
reactant | K2CO3 | 0.63 mmol, 886 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 1.56 mmol, 251 mg | [Na+].[I-]
product | 3-[1-({3-[(2R,5R)-2,5-dimethyl-1-pyrrolidinyl]propyl}sulfonyl)-4-piperidinyl]-5-phenyl-1H-indole-7-carboxamide | 60 mg, 37% | C[C@H]1N([C@@H](CC1)C)CCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C29H38N4O3S
